US08629271B2
a) Ethyl 2-(cyclopropanecarboxamido)-3-mercaptopropanoate
Cyclopropanecarbonyl chloride (3.1 mL) was added to a suspension of triethylamine (4.68 mL) and ethyl 2-amino-3-mercaptopropanoate hydrochloride (5.2 g) in DCM (200 mL) at 0° C. The resulting mixture was allowed to warm to RT and stirred overnight. The reaction was quenched with ethanol and the solvent evaporated. The residue was suspended in ethyl acetate (200 mL) and washed with saturated sodium bicarbonate solution (2×150 mL), aqueous HCl solution (2M, 2×150 mL) and brine (150 mL), then dried over magnesium sulphate, filtered and evaporated. The resulting white solid was purified by silica gel chromatography eluting with 4:1 isohexane:ethyl acetate to give the subtitled compound as a white solid. Yield 5 g.

reactant | Cyclopropanecarbonyl chloride | 3.1 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triethylamine | 4.68 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-amino-3-mercaptopropanoate hydrochloride | 5.2 g | Cl.NC(C(=O)OCC)CS
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(cyclopropanecarboxamido)-3-mercaptopropanoate | C1(CC1)C(=O)NC(C(=O)OCC)CS | C9H15NO3S
